US06313114B1
2-Amino-5-chloro-phenol
To a solution of 2-nitro-5-chloro-phenol (2.2 g, 14.0 mmol) in ethanol (40 mL) was added PtS2-C (5%, 200 mg) and hydrogenated at 45 psi for 4 hours. The mixture was filtered through celite and washed with ethyl acetate (100 mL). The solvent was evaporated and purified by chromatography ((ethyl acetate-hexanes: 2-3) to afford 1.89 g (95%) of a light brown solid. Recrystallization afforded an analytical sample: mp 149-151° C.

reactant | 2-nitro-5-chloro-phenol | 14.0 mmol, 2.2 g | [N+](=O)([O-])C1=C(C=C(C=C1)Cl)O | C6H4ClNO3
solvent | ethanol | 40 mL | C(C)O | C2H6O
product | 2-Amino-5-chloro-phenol | 1.89 g, 95% | NC1=C(C=C(C=C1)Cl)O | C6H6ClNO
